plaintext
* SPICE Netlist
*
* NMOS Transistor M1
M1 2 3 3 3 NMOS

* NMOS Transistor M2
M2 2 2 3 3 NMOS

* Resistor
R 3 3 1k ; Assuming 1k ohm for R

* Current Source
IREF 3 0 DC 1mA ; Assuming a current of 1mA

* Power Supply
VDD 2 0 DC 5V ; Assuming VDD = 5V

.model NMOS NMOS (level=1)
.end